US09216999B2
1-{1-[(5-Chlorothiophen-2-yl)methyl]piperidin-4-yl}-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (20 mg, 0.050 mmol) in methanol was stirred with 5-chlorothiophen-2-carbaldehyde (6.3 μL, 0.06 mmol), 2-picoline borane (6.4 mg, 0.06 mmol) and acetic acid (100 μL) for one day. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=10/1 (v/v)) to give the title compound as a colorless oil (20 mg, yield 75%).

reactant | 1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 0.050 mmol, 20 mg | N1CCC(CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C21H30N4O2Si
reactant | 5-chlorothiophen-2-carbaldehyde | 0.06 mmol, 6.3 μL | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | 2-picoline borane | 0.06 mmol, 6.4 mg | B.N1=C(C=CC=C1)C
reactant | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1-{1-[(5-Chlorothiophen-2-yl)methyl]piperidin-4-yl}-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 20 mg, yield 75% | ClC1=CC=C(S1)CN1CCC(CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C26H33ClN4O2SSi
